US06806365B2
4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-[2-[[(3-trifluoromethylphenyl)-carbonyl]amino]ethyl]cyclopentyl]carbonyl]-L-phenylalanine methyl ester was prepared from 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(2-aminoethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester and 3-trifluoromethylbenzoyl chloride using the general method described in example 205 to give a 99% yield of a white solid. HR MS C33H32Cl2N3O5): Obs. mass, 700.1596. Calcd. mass, 700.1569 (M+Na).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(2-aminoethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)C1(CCCC1)CCN)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C25H29Cl2N3O4
reactant | 3-trifluoromethylbenzoyl chloride | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-[2-[[(3-trifluoromethylphenyl)-carbonyl]amino]ethyl]cyclopentyl]carbonyl]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)C1(CCCC1)CCNC(=O)C1=CC(=CC=C1)C(F)(F)F)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C33H32Cl2F3N3O5
